US07897597B2
Phosphorous oxychloride (1.78 g, 11.6 mmol) was added dropwise to a solution of 8-benzyloxy-1-(2-methylpropyl)-2-methoxymethyl-5-oxido-1H-imidazo[4,5-c]quinoline in 10 mL of DMF. After 1 hour, the reaction was poured onto 700 mL of ice and stirred overnight. Solid potassium carbonate was then added until the pH of the reached 10. After 30 minutes of stirring, the mixture was filtered. The resulting solid was washed with water and dried under a stream of air to give 3.75 g of 8-benzyloxy-4-chloro-1-(2-methylpropyl)-2-methoxymethyl-1H-imidazo[4,5-c]quinoline as a yellow-tan solid.

reactant | Phosphorous oxychloride | 11.6 mmol, 1.78 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 8-benzyloxy-1-(2-methylpropyl)-2-methoxymethyl-5-oxido-1H-imidazo[4,5-c]quinoline | C(C1=CC=CC=C1)OC1=CC=2C3=C(C=[N+](C2C=C1)[O-])N=C(N3CC(C)C)COC | C23H25N3O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 8-benzyloxy-4-chloro-1-(2-methylpropyl)-2-methoxymethyl-1H-imidazo[4,5-c]quinoline | 3.75 g | C(C1=CC=CC=C1)OC1=CC=2C3=C(C(=NC2C=C1)Cl)N=C(N3CC(C)C)COC | C23H24ClN3O2
